US07462634B2
ii. Preparation of 1-(6-Aminopyridin-2-yl)ethanol
To a solution of N-[6-(1-hydroxyethyl)pyridin-2-yl]-2,2-dimethylpropanamide (2.0 g, 9.6 mmol) in dioxane (20 mL) was added 9 N aqueous HCl (10 mL). The reaction mixture was warmed to 100° C. for 24 h. After cooling to 25° C., the solution was neutralized with solid NaOH until pH=9 and diluted with EtOAc (50 mL). The resulting mixture was washed with saturated aqeuous NaHCO3(2×30 mL). The organic layer was dried over anhydrous Na2SO4, filtered, and concentrated. The resulting residue was dissolved in dichloromethane (10:1, 5 mL). Diethyl ether (10 mL) was added, and the solution was allowed to stand for 24 h. The resulting crystals were filtered and rinsed with diethyl ether (2×10 mL) to afford the above-titled intermediate as a white solid (0.65 g, 49%). 1H NMR (400 MHz, CDCl3), δ: 7.43 (t, J=7.5 Hz, 1H), 6.59 (d, J=7.3 Hz, 1H), 6.39 (d, J=8.1 Hz, 1H), 4.72 (q, J=6.3 Hz, 1H), 4.43 (bs, 2H), 4.21 (bs, 1H), 1.45 (d, J=6.3 Hz, 3H); LRMS (ESI): m/z: 139.1.

reactant | N-[6-(1-hydroxyethyl)pyridin-2-yl]-2,2-dimethylpropanamide | 9.6 mmol, 2.0 g | OC(C)C1=CC=CC(=N1)NC(C(C)(C)C)=O | C12H18N2O2
reactant | HCl | 9 N, 10 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-(6-Aminopyridin-2-yl)ethanol | 0.65 g, 49% | NC1=CC=CC(=N1)C(C)O | C7H10N2O
